**********************************************************
* THIS FILE IS GENERATED BY AIVALANCHE
* FILE ID: 5
* SIMULATION TYPE: ac_point_dc_sweep
**********************************************************

* Define the temperature
.TEMP 25.0

* Include the dut file
.INCLUDE /home/gazi/Desktop/Work/custom_packages/aivalanche/aivalanche_app/src/aivalanche_app/data_store/projects/project_1.gazi.5ce9039e-e488-419b-92e8-c95a713c4994/common/model_files/dut.cir

** Start testbenches

********************* dut testbench 21_0 *********************
v_gs_ac_21_0 g_21_0 g_ac_21_0 DC 0 AC 1
e_gs_21_0 g_ac_21_0 0 v_sweep 0 1
v_ds_21_0 d_21_0 0 0.0
v_s_21_0 s_21_0 0 0
v_bs_21_0 b_21_0 0 0.0
x_21_0 d_21_0 g_21_0 s_21_0 b_21_0 dut w=5e-06 l=6e-06 m=1.0
*************************************************************

********************* dut testbench 21_2 *********************
v_gs_ac_21_2 g_21_2 g_ac_21_2 DC 0 AC 1
e_gs_21_2 g_ac_21_2 0 v_sweep 0 1
v_ds_21_2 d_21_2 0 0.0
v_s_21_2 s_21_2 0 0
v_bs_21_2 b_21_2 0 -1.0
x_21_2 d_21_2 g_21_2 s_21_2 b_21_2 dut w=5e-06 l=6e-06 m=1.0
*************************************************************

** End testbenches

* Declare the v_sweep, which will change during the simulation.
v_sweep v_sweep 0 0

********** Start of control section **********
.control

** Model parameters start
alterparam dut a0 = 1.7412423751580226
alterparam dut a1 = 0.05736806660216093
alterparam dut a2 = 0.4476466231876987
alterparam dut acde = 0.38854321399449177
alterparam dut ags = 1.3144524166716298
alterparam dut bin_lketa = 0.08518992362791333
alterparam dut bin_pketa = 0.6591499796900548
alterparam dut bin_ppclm = 0.31216087075348
alterparam dut bin_prdsw = 0.05740988700941929
alterparam dut bin_pvsat = 0.18349731791431942
alterparam dut bin_wk3 = 0.7787666594168943
alterparam dut bin_wk3b = 0.7908538212419858
alterparam dut bin_wketa = 0.4509368177392934
alterparam dut cf = 8.995998050841034e-11
alterparam dut cgdl = 6.411662509737845e-10
alterparam dut cgdo = 2.0250407954457532e-10
alterparam dut ckappas = 10.387226664927661
alterparam dut clc = 1.2722792907408705e-07
alterparam dut cle = 0.7448139358571122
alterparam dut dlc = 5.4612127779178644e-08
alterparam dut drout = 1.7225263790400138
alterparam dut dsub = 0.8979547519036667
alterparam dut dvt0 = 14.012830308963276
alterparam dut dvt0w = 5.262540588973621
alterparam dut dvt1 = 0.3950137422453617
alterparam dut dvt1w = 857916.2310634315
alterparam dut dvt2 = 0.07331571949397836
alterparam dut dvt2w = 1*-0.041127102179649135
alterparam dut dwg = 2.3884886470665774e-08
alterparam dut eta0 = 0.38525130118936507
alterparam dut etab = 1*-0.09290010585454117
alterparam dut k1 = 0.23766314304284492
alterparam dut k2 = 0.037110955493365586
alterparam dut k3 = 20.947484268704073
alterparam dut k3b = 15.081882631579873
alterparam dut keta = 1*-0.034043999336646355
alterparam dut lint = 1*-4.607815255777392e-08
alterparam dut ll = 5.6293072366698346e-14
alterparam dut lwl = 1.4952605030604923e-20
alterparam dut moin = 22.275094020290375
alterparam dut ndep = 6.653066957438161e+18
alterparam dut nfactor = 1.6043440631657082
alterparam dut ngate = 6.0650283696505705e+22
alterparam dut noff = 1.2535192984182049
alterparam dut pclm = 1.3342400583054783e-06
alterparam dut pdiblc1 = 0.00013220219489956043
alterparam dut pdiblc2 = 5.977198738524045e-06
alterparam dut pdiblcb = 1*-0.6054443457571035
alterparam dut pvag = 1.2879013761362188
alterparam dut rdsw = 2967.223988931782
alterparam dut toxp = 2.2842973465712665e-09
alterparam dut u0 = 699.8325696131767
alterparam dut ua = 7.327225328420984e-10
alterparam dut ub = 3.5259496069382657e-19
alterparam dut uc = 1*-9.13114719512537e-10
alterparam dut voff = 1*-0.14295017921717362
alterparam dut voffcv = 0.29747538121043793
alterparam dut voffl = 1*-2.206521428242322e-08
alterparam dut vsat = 14817.824652061365
alterparam dut vth0 = 0.9382634824578044
alterparam dut w0 = 3.6892267518440316e-07
alterparam dut wint = 4.504809374720412e-08
alterparam dut ww = 1*-5.946253797995732e-14
alterparam dut wwl = 1*-4.568226062652808e-20
alterparam dut xpart = 0.48583703366500286
reset
** Model parameters end

** Declare the vectors to save.
save i(v_s_21_0) i(v_s_21_2)

** Write the header of the results file.
echo "vgs,cgs_21_2,cgs_21_0" > /home/gazi/Desktop/Work/custom_packages/aivalanche/aivalanche_app/src/aivalanche_app/data_store/projects/project_1.gazi.5ce9039e-e488-419b-92e8-c95a713c4994/models/model_1.0e00713a-4f68-42d4-9653-2a40c98c558f/calibration_27_07_2024-00_01_11/simulation_files/ac_point_dc_sweep_5.csv

** Start the simulation loop.
compose values_list start=-2.0 stop=2.0 step=0.05
foreach val $&values_list
    alter v_sweep $val
    ac lin 1 10000.0 10000.0

    let cgs_21_0 = abs(imag(i(v_s_21_0)))/2*pi*10000.0
    let cgs_21_2 = abs(imag(i(v_s_21_2)))/2*pi*10000.0

    echo "$val,$&cgs_21_2,$&cgs_21_0" >> /home/gazi/Desktop/Work/custom_packages/aivalanche/aivalanche_app/src/aivalanche_app/data_store/projects/project_1.gazi.5ce9039e-e488-419b-92e8-c95a713c4994/models/model_1.0e00713a-4f68-42d4-9653-2a40c98c558f/calibration_27_07_2024-00_01_11/simulation_files/ac_point_dc_sweep_5.csv
end

.endc
********** End of control section **********

.end